US04430337
2-(2-Methyl-1-cyclohexen-1-yl)-2-hydroxyacetonitrile
2-Methyl-1-cyclohexene-1-carbaldehyde (3.7 g., 29.8 mmole), trimethylsilyl cyanide (4.7 ml., 1.25 equivalents) and 50 mg. of zinc iodide were stirred in 50 ml. of ether for 1.5 hours at room temperature. The reaction mixture was filtered over diatomaceous earth and the filtrate concentrated in vacuo. The residual trimethylsilyl ether was taken up in 50 ml. acetone and acidified with 5 ml. 6N HCl. The mixture was stirred for 3 hours at room temperature, diluted with 500 ml. of ether, and the aqueous layer separated and discarded. The organic layer was washed 1×50 ml. saturated NaHCO3, dried over Na2SO4 and concentrated to an oil (3.2 g.). The oil was chromatographed on 100 ml. silica gel initially with 9:1, then 4:1, then 2:1 hexane:ethyl acetate and finally ethyl acetate as eluant. Product fractions were combined and evaporated to yield title product as an oil, 800 mg.

reactant | 2-Methyl-1-cyclohexene-1-carbaldehyde | 29.8 mmole, 3.7 g | CC1=C(CCCC1)C=O | C8H12O
reactant | trimethylsilyl cyanide | 4.7 ml, 1.25 equivalents | C[Si](C)(C)C#N | C4H9NSi
catalyst | zinc iodide | [I-].[Zn+2].[I-]
solvent | ether | CCOCC | C4H10O
product | 2-(2-Methyl-1-cyclohexen-1-yl)-2-hydroxyacetonitrile | CC1=C(CCCC1)C(C#N)O | C9H13NO
